US06169107A
After 0.04 g (0.10 mmol) of 7-[(3-tert-butoxycarbonylaminopropyl)amino]-1-methyl-2-indoloylguanidine was dissolved in 2 ml of hydrochloric acid/methanol, the solution was stirred at room temperature for 4 hours. The solvent was distilled off under reduced pressure. After 2N sodium hydroxide aqueous solution was added to the residue thus obtained, the mixture was extracted three times with chloroform. The combined extracts were dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The resulting residue was isolated and purified by silica gel column chromatography to give 0.023 g (80.0%) of 7-[(3-aminopropyl)amino]-1-methyl-2-indoloylguanidine. The guanidine derivative was converted into the hydrochloride with hydrochloric acid/methanol. Recrystallization from methanol gave 7-[(3-aminopropyl)amino]-1-methyl-2-indoloylguanidine dihydrochloride.

reactant | 7-[(3-tert-butoxycarbonylaminopropyl)amino]-1-methyl-2-indoloylguanidine | 0.10 mmol, 0.04 g | C(C)(C)(C)OC(=O)NCCCNC=1C=CC=C2C=C(NC12)C(=O)N=C(NC)N | C19H28N6O3
solvent | hydrochloric acid methanol | 2 ml | Cl.CO
product | 7-[(3-aminopropyl)amino]-1-methyl-2-indoloylguanidine | 0.023 g, 80.0% | NCCCNC=1C=CC=C2C=C(NC12)C(=O)N=C(NC)N | C14H20N6O
